US07906652B2
Step 14 3-[(1S)-1-(1-{(S)-(4-chlorophenyl)[3-(5-oxo-4,5-dihydro-1,3,4-oxadiazol-2-yl)phenyl]methyl}azetidin-3-yl)-2-fluoro-2-methylpropyl]-5-fluorobenzonitrile
To a solution of 3.0 g (5.85 mmol) of 3-((S)-(4-chlorophenyl){3-[(1S)-1-(3-cyano-5-fluorophenyl)-2-fluoro-2-methylpropyl]azetidin-1-yl}methyl)benzohydrazide in 100 mL of CH2Cl2 was added 3.73 mL (7.1 mmol) of phosgene solution (20% in toluene). The solution was stirred for 1.5 h at 0° C., The solution was concentrated ,and to the residue was added 6 mL of 2N NH3 in MeOH, and the mixture was concentrated again. The residue was purified by silica gel chromatography with CH2Cl2/acetone to afford the title compound as a white solid; 1H-NMR(CDCl3) δ 1.26 (d, 3H, J1=22.1 Hz), 1.30 (d, 3H, J1=21.7 Hz), 2.39(t, 1H, J=8.0 Hz), 2.93-3.0(m, 2H), 3.12(t, 1H, J=7.3 Hz), 3.33(m, 1H), 3.69 (t, 1H, J=6.8 Hz), 4.35(s, 1H), 7.20 (d, 1H, J=9.7 Hz), 7.23 (d, 1H, J=7.3 Hz), 7.29-7.40(m, 7H), 7.48 (d, 1H, J=7.8 Hz), 7.68 (d, 1H, J=7.8 Hz), 7.97 (s, 1H); Mass Spectrum: m/e=535, (M+1, 35Cl), 537 (M+1, 37Cl).

reactant | 3-((S)-(4-chlorophenyl){3-[(1S)-1-(3-cyano-5-fluorophenyl)-2-fluoro-2-methylpropyl]azetidin-1-yl}methyl)benzohydrazide | 5.85 mmol, 3.0 g | ClC1=CC=C(C=C1)[C@@H](C=1C=C(C(=O)NN)C=CC1)N1CC(C1)[C@H](C(C)(C)F)C1=CC(=CC(=C1)F)C#N | C28H27ClF2N4O
reactant | phosgene | 7.1 mmol, 3.73 mL | C(=O)(Cl)Cl | CCl2O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-[(1S)-1-(1-{(S)-(4-chlorophenyl)[3-(5-oxo-4,5-dihydro-1,3,4-oxadiazol-2-yl)phenyl]methyl}azetidin-3-yl)-2-fluoro-2-methylpropyl]-5-fluorobenzonitrile | ClC1=CC=C(C=C1)[C@H](N1CC(C1)[C@H](C(C)(C)F)C=1C=C(C#N)C=C(C1)F)C1=CC(=CC=C1)C=1OC(NN1)=O | C29H25ClF2N4O2
